Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Latex
 
Attending: ___.
 
Chief Complaint:
Left toe gangrene
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female with PMH of IDDM c/b peripheral nephropathy
and retinopathy s/p renal transplant in ___,  HTN, who 
initially
presented to ___ for infection on her left 
third
toe x 1 week. About one week ago, the patient was trying to cut
her toe naul and accidentally cut the top of her left third toe.
She had been trying to keep the wound clear but then noticed 
that
on the day of presentation on ___ that the wound was red,
painful, and she had a black spot on the tip of her toe. She
never had a fever or chills.  She had a left toe x-ray at the 
OSH
that showed no evidence of fraction, dislocation, or
osteomyelitis.  At ___, she was treated for a
diabetic foot infection with vanco, cipro, Flagyl and was seen 
by
vascular who reported that her non-invasive testing was
consistent with multi level PAD. The vascular service at ___ recommended that she be transferred to ___ due to the
complexity of her illness and history of renal transplant as she
will have poor wound healing from her PAD. 

ABI/PVR were obtained that showed right toe pressure of 50 and
left of 18.

On arrival to the floor, patient reports feeling well with
continued tenderness. She has not had any fevers, chills, chest
pain, shortness of breath.
 

 
Past Medical History:
 Diabetes, insulin dependent, ? type I vs II  
 ESRD s/p Renal transplant in ___, baseline Cr  
 Hypertension  
 Hyperlipidemia  
 S/p gastric bypass  
 H/o GI bleed (lower, ___  
 Chronic cough, bronchiectasis s/p IVIG  
 Diabetic retinopathy  
 Anxiety/depression  
 Bipolar disorder  
 B12 deficiency  
 Gout  
 S/p TAH ___  
 Orthostatic hypotension  
 
Social History:
___
Family History:
No family history of diabetes or kidney disease  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:  98.1 ___
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

DISCHARGE PHYSICAL EXAM
VITALS: Temp: 98.4 (Tm 98.8), BP: 150/42 manual (100-174/42
manual-77), HR: 51 (51-62), RR: 18, O2 sat: 97% (94-97), O2
delivery: Ra     
GENERAL: well developed, well nourished in NAD 
HEENT: sclera anicteric, MMM
CARDIAC: regular rate and rhythm, no murmurs, rubs, or gallops
LUNGS: CTABL, no wheezes, rales, or rhonchi, normal WOB 
ABDOMEN: soft, non-tender, non-distended
EXTREMITIES: warm, cap refill <2 sec in bilateral ___ toes,
unable to palpate DPs or R TP, L TP 1+, L ___ toe w 1cmx1cm
dry, necrotic ulcer w surround erythema  
NEURO: AOx3, face symmetric, moving all extremities with purpose

 
Pertinent Results:
ADMISSION LABS

___ 05:10AM BLOOD WBC-5.5 RBC-4.27 Hgb-12.4 Hct-39.2 MCV-92 
MCH-29.0 MCHC-31.6* RDW-14.7 RDWSD-49.4* Plt ___
___ 05:10AM BLOOD ___ PTT-28.7 ___
___ 05:10AM BLOOD Glucose-113* UreaN-11 Creat-1.0 Na-143 
K-4.9 Cl-106 HCO3-28 AnGap-9*
___ 05:10AM BLOOD ALT-17 AST-17 AlkPhos-84 TotBili-0.6
___ 05:10AM BLOOD Calcium-9.0 Phos-3.9 Mg-1.8

PERTINENT INTERVAL LABS
___ 05:04AM BLOOD CK-MB-1 cTropnT-<0.01
___ 05:04AM BLOOD CRP-2.5
___ 05:04AM BLOOD IgG-933 IgA-188 IgM-79
___ 05:10AM BLOOD Vanco-13.8
___ 05:04AM BLOOD Vanco-19.4
___ 09:24PM BLOOD Vanco-19.6
___ 05:10AM BLOOD tacroFK-6.0
___ 05:04AM BLOOD tacroFK-6.1
___ 05:11AM BLOOD tacroFK-5.6
___ 04:56AM BLOOD tacroFK-4.6*
SED RATE BY MODIFIED 9  (<=30)

DISCHARGE LABS
___ 04:56AM BLOOD WBC-5.5 RBC-4.28 Hgb-12.4 Hct-40.0 MCV-94 
MCH-29.0 MCHC-31.0* RDW-14.6 RDWSD-49.7* Plt ___
___ 04:56AM BLOOD ___ PTT-28.1 ___
___ 04:56AM BLOOD Glucose-137* UreaN-14 Creat-0.9 Na-145 
K-4.6 Cl-109* HCO3-26 AnGap-10
___ 04:56AM BLOOD Calcium-8.9 Phos-4.0 Mg-1.6

MICROBIOLOGY
None

IMAGING AND STUDIES
___ VENOUS DUP UPPER EXT BIL
Patent cephalic and basilic veins bilaterally with diameters as 
listed above. 

___ VENOUS DUP LOWER EXT BIL
The great and small saphenous veins are patent bilaterally. 
Please see 
digitized image on PACS for formal sequential measurements. 

 
Brief Hospital Course:
___ year old female with PMH of IDDM c/b peripheral nephropathy 
and retinopathy s/p renal transplant in ___, HTN, who initially 
presented to ___ for infection on her left 
third toe x 1 week. Transferred to ___ given renal transplant 
history, for further evaluation by vascular surgery. She was 
transitioned to oral antibiotics with plan for follow-up labs 3 
days after discharge, angiogram as outpatient, continuation of 
antibiotics until follow-up with podiatry. 

ACUTE ISSUES 

# Left ___ Toe Foot Ulcer
# cellulitis 
# diabetic foot ulcer: Patient presented with left third toe 
necrosis and cellulitis
after traumatic injury (nail clipping). She had debridement and 
IV abx (vancomycin, ciprofloxacin, flagyl ___ at OSH with 
continued erythema and necrotic material. She had ABI that 
suggest multilevel PAD that will likely need re-vascularization. 
Foot exam was stable throughout hospital stay, she never met any 
SIRS or qSOFA criteria, no leukocytosis, CRP WNL, blood cultures 
were negative. She will undergo angiogram next week as 
outpatient. Until then she will continue on oral ciprofloxacin 
and Bactrim DS 1 tab BID. Her ultimate course should be 
determined after serial examination following potential 
revascularization on 
___. 

# Chest pain: Unclear etiology, appears to be longstanding per 
her report and
review of PCP notes in ___. EKGs unconcerning, stable, not 
typical pattern for angina and enzymes negative. Toponins were 
negative. Would consider additional outpatient evaluation. 

# Diabetic Nephropathy s/p Renal Transplant (___): continue 
home tacrolimus 1.5mg q12hrs (tacro trough: 4.6 on discharge) as 
well as home MMF.

CHRONIC ISSUES
# HTN/CAD: Cont metoprolol tartrate 50mg BID, losartan 25mg BID, 
consider decreasing metoprolol given bradycardia and increasing 
losartan given relatively HTN

# Cough/chronic sinusitis: Chronic cough in setting of recurrent 
sinusitis, bronchitis. Stable on admission. Continued home meds.

# Diabetes: Continued glargine and HISS with Humalog standing at 
meals. 

# Anxiety/bipolar disorder: Continued home lorazepam, 
nortriptyline, sertraline, lamotrigine.

# Osteoporosis: Continued calcium, vitamin D.

# Hypothyroid: Continued home levothyroxine. 

=============================
 TRANSITIONAL ISSUES
=============================
- discharge creat: 0.9 discharge K: 4.6
- discharge tacrolimus: 1.5mg q12hrs (tacro trough: 4.6)
- discharge weight: 72.39 kg
- FOLLOW-UP LABS: patient will have repeat electrolytes drawn on 
___ at ___, primary transplant nephrologist Dr. 
___ listed as attending
- will continue on ciprofloxacin and Bactrim for at least 2 
weeks s/p angiogram, ultimate duration per podiatry
- once off Bactrim would consider decreasing metoprolol given 
bradycardia and increasing losartan given relatively HTN but 
would have close follow-up of potassium levels
- she had atypical chest pain, which per her is longstanding 
issue and while may be related to anxiety may consider 
additional evaluation and/or PPI trial
- would follow with podiatrist in future for nail care
- she should have at least 500cc crystalloid pre and post 
contrast
#CODE: Full (presumed) 
#CONTACT: 
Name of health care proxy: ___
Relationship: husband
Phone number: ___
Cell phone: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen ___ mg PO Q8H:PRN Pain - Mild 
2. Losartan Potassium 25 mg PO DAILY 
3. Calcium Carbonate 1000 mg PO DAILY 
4. Gabapentin 300 mg PO BID 
5. LamoTRIgine 200 mg PO DAILY 
6. LORazepam 2 mg PO QHS:PRN Anxiety 
7. LORazepam 1 mg PO BID: PRN anxiety 
8. Metoprolol Tartrate 50 mg PO BID 
9. Alendronate Sodium 70 mg PO QSUN 
10. Tretinoin 0.025% Cream 1 Appl TP QHS 
11. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
12. Creon 12 3 CAP PO TID W/MEALS 
13. GuaiFENesin ER 1200 mg PO Q12H 
14. Baclofen 10 mg PO TID: PRN Muscle Spasms 
15. Atorvastatin 80 mg PO QPM 
16. Mycophenolate Sodium ___ 360 mg PO BID 
17. Tacrolimus 1.5 mg PO Q12H 
18. Glargine 14 Units Bedtime
19. Aspirin 81 mg PO DAILY 
20. Levothyroxine Sodium 50 mcg PO DAILY 
21. Cyanocobalamin 1000 mcg IM/SC QMONTHLY 
22. Vitamin D 1000 UNIT PO DAILY 
23. Vitamin D ___ UNIT PO 2X/WEEK (MO,TH) 
24. estradiol 10 mcg vaginal twice weekly 
25. Cetirizine 10 mg PO DAILY 
26. Sertraline 150 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*40 Tablet Refills:*0 
2.  Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*38 Tablet Refills:*0 
3.  Glargine 14 Units Bedtime 
4.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild  
5.  Alendronate Sodium 70 mg PO QSUN  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 80 mg PO QPM  
8.  Baclofen 10 mg PO TID: PRN Muscle Spasms  
9.  Calcium Carbonate 1000 mg PO DAILY  
10.  Cetirizine 10 mg PO DAILY  
11.  Creon 12 3 CAP PO TID W/MEALS  
12.  Cyanocobalamin 1000 mcg IM/SC QMONTHLY  
13.  Estradiol 10 mcg vaginal TWICE WEEKLY  
14.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
15.  Gabapentin 300 mg PO BID  
16.  GuaiFENesin ER 1200 mg PO Q12H  
17.  LamoTRIgine 200 mg PO DAILY  
18.  Levothyroxine Sodium 50 mcg PO DAILY  
19.  LORazepam 2 mg PO QHS:PRN Anxiety  
20.  LORazepam 1 mg PO BID: PRN anxiety  
21.  Losartan Potassium 25 mg PO DAILY  
22.  Metoprolol Tartrate 50 mg PO BID  
23.  Mycophenolate Sodium ___ 360 mg PO BID  
24.  Sertraline 150 mg PO DAILY  
25.  Tacrolimus 1.5 mg PO Q12H  
26.  Tretinoin 0.025% Cream 1 Appl TP QHS  
27.  Vitamin D 1000 UNIT PO DAILY  
28.  Vitamin D ___ UNIT PO 2X/WEEK (MO,TH)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1) cellulitis (left ___ toe ulceration)

# Diabetic Nephropathy s/p Renal Transplant (___)
# Chest pain
# HTN
# Diabetes Mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were transferred to ___ for further 
management of your foot infection and poor circulation in your 
legs.  You were evaluated by the kidney transplant team, 
vascular surgery, podiatry and infectious disease. 

The vascular surgery team will evaluate the blood vessels in 
your legs with an angiogram on ___. 

Now that you are going home:
- You are scheduled for a left lower extremity angiogram on 
___ 
- Continue to take all of your medications as prescribed 
including ciprofloxacin and Bactrim 
- As we discussed please come to ___ on ___ to have your 
labs checked, this is very important
- Do NOT stop taking your antibiotics until told to by your 
outpatient podiatrist
- The coordinator for vascular surgery should call you on ___ 
morning, if not please call ___ for further 
instructions regarding the procedure on ___

It was a pleasure taking care of you!

 
Followup Instructions:
___